Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
___: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
asymptomatic bradycardia

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ lady with atrial fibrillation (on
dabigatran and carvedilol), HTN, HFpEF, and history of breast
cancer in remission, who was sent to the emergency room by her
PCP in the setting of asymptomatic bradycardia that was
discovered incidentally during her routine annual visit. She
denied any symptoms of chest pain, palpitations, 
lightheadedness,
dizziness, presyncope, syncope, or falls, but given that her PCP
noted HRs as low as 20, she was sent in for urgent cardiac
evaluation. 

In the ED, initial VS were: T97.9, HR 50, BP 147/72, RR 16, 97%
RA. Exam notable for mild ankle swelling bilaterally but
otherwise benign. EKG notable for atrial fibrillation with
ventricular rate 53 bpm, no ischemic ST/T-wave changes. TSH was
drawn but pending. No new imaging was obtained. Cardiology was
consulted who recommended holding home carvedilol and admitting
to the ___ with consideration of formal EP consult for
PPM evaluation if tele demonstrates evidence of recurrent
tachy-brady syndrome or have symptomatic bradycardia. Patient
received her home dabigatran prior to transfer. Transfer VS were
stable with BP 147/51 and HR 47. 

On arrival to the floor, patient recounts the above history,
reaffirming that she has been entirely asymptomatic. She 
believes
that she has not taken extra doses of her home carvedilol. 

 
Past Medical History:
HTN
Hyperlipidemia
Hypothyroidism 
CHF
Atrial fibrillation  
Right Breast CA s/p Mastectomy in ___ 
Tonsillectomy
Appendectomy 
Arthritis 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Exam:
================

VS: T98.6 BP 145/59 HR 60 RR 18 95% on RA.  

GENERAL: pleasant older woman resting in bed comfortably, laying
flat, in NAD. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, JVD to mid-neck laying flat in bed. 
HEART: irregularly irregular, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

Discharge Exam:
===================

___ 0758 Temp: 98.3 PO BP: 148/72 HR: 61 RR: 18 O2 sat: 95%
O2 delivery: Ra 

GENERAL: pleasant older woman resting in bed comfortably, laying
flat, in NAD. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, NO JVP at 90 degrees 
HEART: irregularly irregular, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS
==================

___ 07:20AM   GLUCOSE-122* UREA N-54* CREAT-0.9 SODIUM-145 
POTASSIUM-4.5 CHLORIDE-109* TOTAL CO2-21* ANION GAP-15
___ 07:20AM   estGFR-Using this
___ 07:20AM   CALCIUM-9.6 PHOSPHATE-3.8 MAGNESIUM-2.3
___ 07:20AM   WBC-6.3 RBC-3.24* HGB-10.5* HCT-32.6* 
MCV-101* MCH-32.4* MCHC-32.2 RDW-16.5* RDWSD-60.9*
___ 07:20AM   PLT COUNT-140*
___ 07:20AM   ___ PTT-84.7* ___
___ 11:20PM   TSH-1.1

IMAGING:
===================
NONE

MICROBIOLOGY
===================
NONE
DISCHARGE LABS
====================

___ 07:20AM BLOOD WBC-6.3 RBC-3.24* Hgb-10.5* Hct-32.6* 
MCV-101* MCH-32.4* MCHC-32.2 RDW-16.5* RDWSD-60.9* Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-122* UreaN-54* Creat-0.9 Na-145 
K-4.5 Cl-109* HCO3-21* AnGap-15
___ 11:20PM BLOOD TSH-1.1
 
Brief Hospital Course:
Ms. ___ is an ___ lady with atrial fibrillation (on 
dabigatran and carvedilol), HTN, CHF, and history of breast 
cancer in remission, who was sent to the emergency room by her 
PCP in the setting of asymptomatic bradycardia that was 
discovered incidentally during her routine annual visit. ECG 
with atrial fibrillation with slow ventricular response. 

ACUTE ISSUES:
===============

# Atrial fibrillation with slow ventricular response: 
Asymptomatic with normal BP. Discovered at routine PCP ___. 
___ represent worsening underlying nodal disease in setting of 
beta-blockade with carvedilol 25mg BID. She was monitored 
closely and her home carvedilol dosage was decreased. She had no 
further episodes of significant bradycardia while inpatient. She 
was ambulating well prior to discharge and she was sent home 
with ___ of ___ monitor for further evaluation as 
outpatient. She was also discharged on home dabigatran.

CHRONIC ISSUES:
===============
# Heart failure with preserved ejection fraction: The patient 
presented euvolemic. She was continued on home Lasix 40mg PO 
daily.

# HTN: The patient's lisinopril was held initially, but dosage 
was ultimately increased to 30mg PO daily at time of discharge 
as patient's carvedilol dosage was decreased.

# HLD: Continued on home simvastatin

# Hypothyroid: TSH 1.1, thus likely not contributing to low HR. 
She was continued on home levothyroxine 50 mcg daily

# gout: The patient was continued on home allopurinol ___ 
daily

TRANSITIONAL ISSUES:
======================
NEW MEDICATIONS: none

CHANGED MEDICATIONS:
-Carvedilol decreased from 25mg PO BID to 12.5mg PO BID
-Lisinopril increased from 20mg PO daily to 30mg PO daily

DISCONTINUED MEDICATIONS: None

[] Patient discharged with ___ monitor, results from which she 
should follow up with her cardiologist
[] The patient should have repeat Chem10 within 1 week of 
discharge to have results follow-up by her PCP

-___ weight: 68.7 kg
-Discharge Cr: 0.9

#CODE: DNR/DNI
#CONTACT: Son ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Dabigatran Etexilate 150 mg PO BID 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Furosemide 40 mg PO DAILY 
7. Carvedilol 25 mg PO BID 

 
Discharge Medications:
1.  Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Lisinopril 30 mg PO DAILY 
RX *lisinopril 30 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Dabigatran Etexilate 150 mg PO BID  
5.  Furosemide 40 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.Outpatient Lab Work
Please draw chem 10 by ___ and have results faxed to Dr. ___ 
(___). ICD10: I10

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Atrial Fibrillation with bradycardia 
#Hypertension
#Heart failure with preserved ejection fraction
#Hyperlipidemia
#Gout
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you on this hospital stay at 
___.

Why was I admitted to the hospital?

- You were admitted due to a slow heart rate that your primary 
care doctor found

What happened during your stay?

- You were observed on heart monitoring for worsening of your 
heart rhythm, and we did no see any pauses or worsening of this 
rhythm
- Your heart rate was within a normal range while you were in 
the hospital
- We decreased your carvedilol dosing to 12.5mg twice daily from 
25mg twice daily
- We also increased your spironolactone medication from 20mg to 
30mg once daily

What do I need to do once I leave the hospital?

- It is important that you take all of your medications as 
prescribed
- You should see your regular doctor and your cardiologist in 1 
week
- You should use your ___ of hearts monitor at home and call 
your doctor if it alarms or indicates that you call your doctor. 


We wish you the best!
 

Sincerely Your ___ Care TEAM 

 
Followup Instructions:
___